US04057556
A solution of 3-bromo-2-hydroxy-2,4,6-cycloheptatrien-1-one [27.5 g, described by T. Toda et al., Nippon Hagaku Zasshi, 88, 1234-5 (1967), (CA 68 101342)] and sodium methoxide (prepared from 12.6 g of sodium in methanol followed by evaporation of the methanol) in dimethyl sulfoxide (300 ml) is heated at 80° C for 1 hour. The solution is cooled poured on ice, acidified with 2N sulfuric acid and extracted with ethyl acetate. The organic extract is washed with brine, dried over sodium sulfate and evaporated. The residue is crystallized from ethyl acetate-hexane to give 2-hydroxy-3-methoxy-2,4,6-cycloheptatrien-1-one. Evaporation of the mother liquors gives 2-hydroxy-4-methoxy-2,4,6-cycloheptatrien-1-one.

reactant | 3-bromo-2-hydroxy-2,4,6-cycloheptatrien-1-one | 27.5 g | BrC1=C(C(C=CC=C1)=O)O | C7H5BrO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 12.6 g | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-hydroxy-3-methoxy-2,4,6-cycloheptatrien-1-one | OC=1C(C=CC=CC1OC)=O | C8H8O3
